US07625887B2
[2-chloro-4-(4-chlorophenyl)pyridin-3-yl]methanol
To a solution of 2-chloro-4-(4-chlorophenyl)nicotinic acid (2.4 g) in tetrahydrofuran (60 ml) was added thionyl chloride (3.2 g), and the mixture was heated under reflux for 3 hrs. The solvent was evaporated under reduced pressure, and the residue was dissolved in tetrahydrofuran (60 ml). Sodium borohydride (1.5 g) was added by small portions at 0° C., and the mixture was allowed to warm gradually and stirred at room temperature for 2 hrs. Water was added to quench the reaction and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (1.9 g) as a colorless oil.

reactant | 2-chloro-4-(4-chlorophenyl)nicotinic acid | 2.4 g | ClC1=C(C(=O)O)C(=CC=N1)C1=CC=C(C=C1)Cl | C12H7Cl2NO2
reactant | thionyl chloride | 3.2 g | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | [2-chloro-4-(4-chlorophenyl)pyridin-3-yl]methanol | 1.9 g | ClC1=NC=CC(=C1CO)C1=CC=C(C=C1)Cl | C12H9Cl2NO
